2110-05-01 09:31:00 Physician Attending Progress Note
Chief Complaint:  GIB, melena, lightheadedness, abd pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  76 yo female with history of stage IIB pancreatic CA, AS and DM
   now on chemo rx in follow up for surgical resection, presents with GI
   bleed, melena, light headededness.
   Has chronic diarrhea since Whipples. Tarry stools x 1 month. Presented
   with acute abd pain, lightheadedness and dizziness + melena.
   24 Hour Events:
   CT [**Last Name (un) 499**]: new ascitis.
   Got Vit K for INR 1.5, plts
   Got 2 U PRBC, Hct not recovered, repeat Hct pend.
   Continues to have mild epigastric pain. Nausea resolved.
   No longer lightheaded.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Oxaliplatin
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Diarrhea, Tarry stools x  1 month
   Flowsheet Data as of  [**2110-5-1**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 80 (77 - 84) bpm
   BP: 134/60(78) {119/55(70) - 152/76(89)} mmHg
   RR: 19 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
           Total In:
           925 mL
   PO:
           TF:
   IVF:
   500 mL
   Blood products:
   425 mL
   Total out:
                                                                      0 mL
                                                                    150 mL
   Urine:
   150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    775 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse:present ), (Left radial
   pulse:present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: Epigastrium, No R/G, +
   fluid wave
   Extremities: Right: 2+, Left: 2+
   Skin:  warm
   Neurologic: Attentive, Follows simple commands, Movement:purpsoeful,
   Tone: normal
   Labs / Radiology
   8.1 g/dL
   85 K/uL
   98 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.1 mEq/L
   17 mg/dL
   107 mEq/L
   136 mEq/L
   22.9 %
   3.5 K/uL
        [image002.jpg]
                             [**2110-5-1**]  03:26 AM
   WBC
   3.5
   Hct
   22.9
   Plt
   85
   Cr
   0.8
   Glucose
   98
   Other labs: PT / PTT / INR:16.5/31.4/1.5, Ca++:7.8 mg/dL, Mg++:1.5
   mg/dL, PO4:2.5 mg/dL
   ECG: NSR
   Assessment and Plan
   76 yo female with history of stage IIB pancreatic CA s/p surgical
   resection undergoing chemo rx, AS and DM admitted for GIB, anemia
   #  GIB
   - Likely upper GI, given melena, epigastric pain and nausea
   - Chemo held for now
   - T/C, ppi, f/u Hct q4h
 without appropriate bump
 repeat h/h and
   transfuse
   - has portacath for access (HD stable without tachycardia)
   - watch platelets (low due to chemo) and coags (got Vit K, coumadin
   held X months)
   - Gi consult for EGD
   # coagulopathy
   Likely nutritional, vit K
   # thrombocytopenia
post chemo drop, trend, transfuse as needed
   #  Ascitis:
   - eitiology unclear
new on imaging, concerning for malignant effusion
   - dx tap pending stabilization of bleeding, gi eval with scope
   - no fever or wbc elevation (sbp)
   # Non anion gap acidosis:
   - likely due to chronic diarrhea
   - Monitor, hydration, blood
    # AS murmur
   -touch base with [**Location (un) 2866**] cardiologist
   - obtain OSH TTE report
   _monitor for CHF in setting of blood transfusions
   # htn
   - anti HTN held
   # DM
   - NPO, RISS
   # h/o DVT/PE:
   - coumadin held, s/p  Rx for 10 months
   ICU Care
   Nutrition:
       NPO fro possible egd
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2110-5-1**] 01:19 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI IV
 add sulcrafate pending GI eval
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:  40

2110-05-02 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2110-5-1**] 12:00 PM
   patient has diagnostic scoping done
   EGD-  At the initial portion of the efferent limb was blood and a 2.5
   cm linear ulcer in the setting of irregular, heaped up mucosa. This
   occupied an approximately 6 cm area. The 10 cm of efferent limb distal
   to this was normal. (biopsy)
   Otherwise normal EGD to approximately 10 cm into the afferent and
   efferent limbs
   Recommendations: Will rush the pathology results. Most consistent with
   recurrence of her pancreatic adenocarcinoma. Less likely a benign
   anastomotic ulcer.
   Will initiate carafate qid while awaiting pathology results.
   -          bumped to 2 units with stable HCT since 5pm at 31
   -          ONC- agrees holding capecitabine, rad/onc and surgery eval
   after bx results
   -          OSH- TTE
 AS 0.9cm, EF 65, grad I DD
   Allergies:
   Oxaliplatin
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2110-5-1**] 05:35 PM
   Pantoprazole (Protonix) - [**2110-5-1**] 09:28 PM
   Carafate (Sucralfate) - [**2110-5-2**] 05:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: lightheaded with standing
   Flowsheet Data as of  [**2110-5-2**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 81 (69 - 104) bpm
   BP: 128/60(77) {109/48(63) - 148/70(88)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,178 mL
                                                                    297 mL
   PO:
             TF:
   IVF:
                                                                  1,378 mL
                                                                    297 mL
   Blood products:
                                                                    800 mL
   Total out:
                                                                    550 mL
                                                                    300 mL
   Urine:
                                                                    550 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,628 mL
                                                                     -3 mL
   Respiratory support
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), loud
   murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   75 K/uL
   11.2 g/dL
   86 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.1 mEq/L
   16 mg/dL
   110 mEq/L
   139 mEq/L
   31.2 %
   4.5 K/uL
        [image002.jpg]
                             [**2110-5-1**]  03:26 AM
                             [**2110-5-1**]  09:29 AM
                             [**2110-5-1**]  05:18 PM
                             [**2110-5-1**]  10:47 PM
                             [**2110-5-2**]  04:30 AM
   WBC
   3.5
   4.5
   Hct
   22.9
   27.5
   32.0
   31.0
   31.2
   Plt
   85
   94
   85
   75
   Cr
   0.8
   0.8
   Glucose
   98
   86
   Other labs: PT / PTT / INR:14.7/29.0/1.3, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:2.8 mg/dL
   Imaging: none
   Microbiology: none
   Assessment and Plan
   76-year-old female with stage II pancreatic adenocarcinoma, s/p Whipple
   presenting with melena in setting recent chemotherapy
   # Melena
   EGD-  At the initial portion of the efferent limb was blood and a 2.5
   cm linear ulcer in the setting of irregular, heaped up mucosa. This
   occupied an approximately 6 cm area. The 10 cm of efferent limb distal
   to this was normal. (biopsy)
   Otherwise normal EGD to approximately 10 cm into the afferent and
   efferent limbs
   Recommendations: Will rush the pathology results. Most consistent with
   recurrence of her pancreatic adenocarcinoma. Less likely a benign
   anastomotic ulcer.
   Will initiate carafate qid while awaiting pathology results.
   - IV access is her PORT
   - type and crossed
   - HCT stable s/p 2 units blood she received in the AM yesterday
   - serial HCT q12h HCT
   - telemetry
   - IV PPI [**Hospital1 **]
   - GI following
   .
   # [**Name (NI) 2853**] Unclear etiology for ascites, may be malignant ascites.
   -  lfts wnl
   - will need diagnostic tap to evaluate once GIB issue is resolved
   - no concern for SBP given afebrile, nml wbc, CT scan not showing
   peritonitis
   .
   # Elevated coags
   -in setting poor PO intake and chronic diarrhea
   - received PO vitamin K, INR 1.3
   - follow
   .
   # Thrombocytopenia
   - stable
   - related to recent chemo
   - received bag plt, transfuse plt<10, if actively bleeding <50
   .
   # NAG acidosis
   - related to chronic diarrhea
   - monitor, replete lytes
   .
   # Hypertension: will hold atenolol and enalapril in setting of GIB , pt
   not taking these as outpt. anyway
   .
   # DM II
   - SSI, QID FS<100
   .
   # h/o PE
   - s/p 10 months tx, stopped [**2110-3-7**] given anemia
    .
   # PPX: PPI, pneumoboots given plt  low
   .
   # FEN: ok to advance diet to regular as tolerated per GI
   .
   # Code Status: DNR/DNI
   .
   # Communication : daughter and HCP [**Name (NI) 566**] [**Telephone/Fax (1) 2854**] (work) or
   [**Telephone/Fax (1) 2855**] (mobile)
   .
   # Dispo: floor

2110-05-02 11:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  76 yo female with history of stage IIB pancreatic CA, AS and DM
   now on chemo rx in follow up for surgical resection, presents with GI
   bleed, melena, light headededness.
   Has chronic diarrhea since Whipple. Tarry stools x 1 month. Presented
   with acute abd pain, lightheadedness and dizziness + melena.
   24 Hour Events:
 ENDOSCOPY - At [**2110-5-1**] 12:00 PM
   patient has diagnostic scoping done--2.5 cm ulcer at prior whipple
   site, bxs, no intervention/no active bleeding, concerning for recurrant
   of ca
   transfused 2 additional prbcs--> h/h stable
   onc input--pending path, rad onc, surgical c/s
   osh echo--mod-sev as, grade 1 diastol dysfx
   History obtained from Patient, ho
   Allergies:
   Oxaliplatin
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2110-5-1**] 05:35 PM
   Carafate (Sucralfate) - [**2110-5-2**] 05:29 AM
   Pantoprazole (Protonix) - [**2110-5-2**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-5-2**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 84 (69 - 91) bpm
   BP: 134/63(82) {113/53(71) - 148/70(88)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,178 mL
                                                                    350 mL
   PO:
             TF:
   IVF:
                                                                  1,378 mL
                                                                    350 mL
   Blood products:
                                                                    800 mL
   Total out:
                                                                    550 mL
                                                                    300 mL
   Urine:
                                                                    550 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,628 mL
                                                                     50 mL
   Respiratory support
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : scant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): approp, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   75 K/uL
   86 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.1 mEq/L
   16 mg/dL
   110 mEq/L
   139 mEq/L
   32.3 %
   4.5 K/uL
        [image002.jpg]
                             [**2110-5-1**]  03:26 AM
                             [**2110-5-1**]  09:29 AM
                             [**2110-5-1**]  05:18 PM
                             [**2110-5-1**]  10:47 PM
                             [**2110-5-2**]  04:30 AM
                             [**2110-5-2**]  09:34 AM
   WBC
   3.5
   4.5
   Hct
   22.9
   27.5
   32.0
   31.0
   31.2
   32.3
   Plt
   85
   94
   85
   75
   Cr
   0.8
   0.8
   Glucose
   98
   86
   Other labs: PT / PTT / INR:14.7/29.0/1.3, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:2.8 mg/dL
   Imaging: no new data
   Microbiology: no data
   Assessment and Plan
   76 yo female with history of stage IIB pancreatic CA s/p surgical
   resection undergoing chemo rx, AS and DM admitted for GIB, anemia
   #  GIB
   Ulceration around anastomosas site concerning for recurrence
   h/h stable
can follow [**Hospital1 **]
   continue iv ppi + sulcrafate
   f/u path results
   gi regarding advancing diet
   # coagulopathy / thrombocytopenia
   INR likely nutritional, vit K
   post chemo drop
   transfuse for plt > 50 if active blledibng, or > 10
   Vit k
   #  Ascitis:
   - eitiology unclear
new on imaging, concerning for malignant effusion
   - hold on tap pending path result
   - no fever or wbc elevation (sbp)
   # Non anion gap acidosis:
   - likely due to chronic diarrhea
   - Monitor, hydration, blood
    # AS murmur
   - osh echo with mod-sev as
   - monitor for CHF in setting of blood transfusions
   # htn
   - anti HTN held
   # DM
   - NPO, RISS, resume home reg once eating
   # h/o DVT/PE:
   - coumadin held, s/p  Rx for 10 months
   ICU Care
   Nutrition:
   Comments: gi regarding advancing diet to clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2110-5-1**] 01:19 AM
   Prophylaxis:
   DVT: SQ UF Heparin, boots
   Stress ulcer: PPI, sulcrafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI  stable for floor transfer, pending gi approval
   Total time spent: 35 minutes

2110-05-03 07:48:00 Physician Resident Progress Note
Chief Complaint: gib
   24 Hour Events:
   nothing
   Allergies:
   Oxaliplatin
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-5-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-5-3**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 82 (77 - 97) bpm
   BP: 141/60(81) {113/52(69) - 141/75(84)} mmHg
   RR: 16 (13 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    882 mL
                                                                    278 mL
   PO:
                                                                    410 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    472 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    410 mL
   Urine:
                                                                    450 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    432 mL
                                                                   -132 mL
   Respiratory support
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   98 K/uL
   11.1 g/dL
   129 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.8 mEq/L
   19 mg/dL
   106 mEq/L
   134 mEq/L
   31.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2110-5-1**]  03:26 AM
                             [**2110-5-1**]  09:29 AM
                             [**2110-5-1**]  05:18 PM
                             [**2110-5-1**]  10:47 PM
                             [**2110-5-2**]  04:30 AM
                             [**2110-5-2**]  09:34 AM
                             [**2110-5-3**]  05:00 AM
   WBC
   3.5
   4.5
   4.9
   Hct
   22.9
   27.5
   32.0
   31.0
   31.2
   32.3
   31.3
   Plt
   85
   94
   85
   75
   98
   Cr
   0.8
   0.8
   0.9
   Glucose
   98
   86
   129
   Other labs: PT / PTT / INR:14.7/29.0/1.3, Ca++:8.1 mg/dL, Mg++:1.7
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   76-year-old female with stage II pancreatic adenocarcinoma, s/p Whipple
   presenting with melena in setting recent chemotherapy
   .
   # Melena
   EGD-  At the initial portion of the efferent limb was blood and a 2.5
   cm linear ulcer in the setting of irregular, heaped up mucosa. This
   occupied an approximately 6 cm area. The 10 cm of efferent limb distal
   to this was normal. (biopsy)
   Otherwise normal EGD to approximately 10 cm into the afferent and
   efferent limbs
   Recommendations: Will rush the pathology results. Most consistent with
   recurrence of her pancreatic adenocarcinoma. Less likely a benign
   anastomotic ulcer.
   Will initiate carafate qid while awaiting pathology results.
   - IV access is her PORT
   - type and crossed
   - HCT stable s/p 2 units blood she received in the AM yesterday
   - serial HCT q12h HCT
   - telemetry
   - IV PPI [**Hospital1 **]
   - GI following
   .
   # [**Name (NI) 2853**] Unclear etiology for ascites, may be malignant ascites.
   -  lfts wnl
   - will need diagnostic tap to evaluate once GIB issue is resolved
   - no concern for SBP given afebrile, nml wbc, CT scan not showing
   peritonitis
   .
   # Elevated coags
   -in setting poor PO intake and chronic diarrhea
   - received PO vitamin K, INR 1.3
   - follow
   .
   # Thrombocytopenia
   - stable
   - related to recent chemo
   - received bag plt, transfuse plt<10, if actively bleeding <50
   .
   # NAG acidosis
   - related to chronic diarrhea
   - monitor, replete lytes
   .
   # Hypertension: will hold atenolol and enalapril in setting of GIB , pt
   not taking these as outpt. anyway
   .
   # DM II
   - SSI, QID FS<100
   .
   # h/o PE
   - s/p 10 months tx, stopped [**2110-3-7**] given anemia
    .
   # PPX: PPI, pneumoboots given plt  low
   .
   # FEN: ok to advance diet to regular as tolerated per GI
   .
   # Code Status: DNR/DNI
   .
   # Communication : daughter and HCP [**Name (NI) 566**] [**Telephone/Fax (1) 2854**] (work) or
   [**Telephone/Fax (1) 2855**] (mobile)
   .
   # Dispo: floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2110-5-1**] 01:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: called out to OMED

2110-05-03 07:58:00 Physician Attending Progress Note
Chief Complaint: 76 yo female with history of stage IIB pancreatic CA,
   AS and DM now on chemo rx in follow up for surgical resection, presents
   with GI bleed, melena, light headededness.
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Has chronic diarrhea since Whipple. Tarry stools x 1 month. Presented
   with acute abd pain, lightheadedness and dizziness + melena.
   24 Hour Events:
   Allergies:
   Oxaliplatin
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-5-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-5-3**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 82 (77 - 97) bpm
   BP: 141/60(81) {113/52(69) - 141/75(84)} mmHg
   RR: 16 (13 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    882 mL
                                                                    280 mL
   PO:
                                                                    410 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    472 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    410 mL
   Urine:
                                                                    450 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    432 mL
                                                                   -130 mL
   Respiratory support
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   98 K/uL
   129 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.8 mEq/L
   19 mg/dL
   106 mEq/L
   134 mEq/L
   31.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2110-5-1**]  03:26 AM
                             [**2110-5-1**]  09:29 AM
                             [**2110-5-1**]  05:18 PM
                             [**2110-5-1**]  10:47 PM
                             [**2110-5-2**]  04:30 AM
                             [**2110-5-2**]  09:34 AM
                             [**2110-5-3**]  05:00 AM
   WBC
   3.5
   4.5
   4.9
   Hct
   22.9
   27.5
   32.0
   31.0
   31.2
   32.3
   31.3
   Plt
   85
   94
   85
   75
   98
   Cr
   0.8
   0.8
   0.9
   Glucose
   98
   86
   129
   Other labs: PT / PTT / INR:14.7/29.0/1.3, Ca++:8.1 mg/dL, Mg++:1.7
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   76 yo female with history of stage IIB pancreatic CA s/p surgical
   resection undergoing chemo rx, AS and DM admitted for GIB, anemia
   #  GIB
   Ulceration around anastomosas site concerning for recurrence
   h/h stable
can follow [**Hospital1 **]
   continue iv ppi + sulcrafate
   f/u path results
   gi regarding advancing diet
   # coagulopathy / thrombocytopenia
   INR likely nutritional, vit K
   post chemo drop
   transfuse for plt > 50 if active blledibng, or > 10
   Vit k
   #  Ascitis:
   - eitiology unclear
new on imaging, concerning for malignant effusion
   - hold on tap pending path result
   - no fever or wbc elevation (sbp)
   # Non anion gap acidosis:
   - likely due to chronic diarrhea
   - Monitor, hydration, blood
    # AS murmur
   - osh echo with mod-sev as
   - monitor for CHF in setting of blood transfusions
   # htn
   - anti HTN held
   # DM
   - NPO, RISS, resume home reg once eating
   # h/o DVT/PE:
   - coumadin held, s/p  Rx for 10 months
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2110-5-1**] 01:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: